US05840751
Methyl 2-[[5,6-dihydro-4-hydroxy-2-oxo-6-(2-phenylethyl)-6-phenyl-2H-pyran-3-yl]thio]benzoate (+/-)
The title compound was prepared as described in General Method 6 from 1.9 mmol of 3-bromo-5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one (prepared in example BBB), 2.2 mmol of methyl thiosalicylate and 2.1 mmol of piperidine in 30 mL of dichloromethane. The crude product was chromatographed on silica gel, eluting first with chloroform and then with 5% methanol in chloroform, to give the title compound (m.p. 91°-92° C.). 1H NMR (DMSO-d6) δ 2.25 (m, 2 H), 2.38 (m, 1 H), 2.62 (m, 1 H), 3.44 (q, 2 H), 3.82 (s, 3 H), 6.06 (bd, 1 H), 6.90 (t, 1 H), 7.05-7.52 (m, 11 H), 7.81 (dd, 1 H).

reactant | 3-bromo-5,6-dihydro-4-hydroxy-6-phenyl-6-(2-phenylethyl)-2H-pyran-2-one | 1.9 mmol | BrC=1C(OC(CC1O)(CCC1=CC=CC=C1)C1=CC=CC=C1)=O | C19H17BrO3
reactant | methyl thiosalicylate | 2.2 mmol | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | piperidine | 2.1 mmol | N1CCCCC1 | C5H11N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Methyl 2-[[5,6-dihydro-4-hydroxy-2-oxo-6-(2-phenylethyl)-6-phenyl-2H-pyran-3-yl]thio]benzoate | OC1=C(C(OC(C1)(C1=CC=CC=C1)CCC1=CC=CC=C1)=O)SC1=C(C(=O)OC)C=CC=C1 | C27H24O5S
